US08013010B2
3-(6-Fluoro-3-pyridinyl)phenyl 2,3,4-tri-O-acetyl-5-thio-β-D-xylopyranoside
By carrying out the operation analogously to example 3, starting from 3-iodophenyl 2,3,4-tri-O-acetyl-5-thio-β-D-xylopyranoside, obtained according to preparation I, and 6-fluoro-3-pyridineboronic acid, the expected product is obtained in the form of a white powder with a yield of 55%.

reactant | 3-iodophenyl 2,3,4-tri-O-acetyl-5-thio-β-D-xylopyranoside | C(C)(=O)O[C@H]1[C@H](OC2=CC(=CC=C2)I)SC[C@H]([C@@H]1OC(C)=O)OC(C)=O | C17H19IO7S
reactant | 6-fluoro-3-pyridineboronic acid | FC1=CC=C(C=N1)B(O)O | C5H5BFNO2
product | 3-(6-Fluoro-3-pyridinyl)phenyl 2,3,4-tri-O-acetyl-5-thio-β-D-xylopyranoside | yield of 55% | C(C)(=O)O[C@H]1[C@H](OC2=CC(=CC=C2)C=2C=NC(=CC2)F)SC[C@H]([C@@H]1OC(C)=O)OC(C)=O | C22H22FNO7S
